US07968746B2
Crude 2-(hexylcarbamoyl)-2,5,7,8-tetramethylchroman-6-yl acetate (187 mg, 0.25 mmol) in 1.25 mL MeOH was treated with 33.7 mg (0.625 mmol) NaOMe and let stir overnight. The stirred brown solution then was diluted with water (10 mL), neutralized with 2.5 M HCl (1.5 mL) and 10 mL EtOAc added. The layers were separated and the organics dried over Na2SO4 and concentrated. Flash chromatography yielded 90 mg of N-hexyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide.

reactant | 2-(hexylcarbamoyl)-2,5,7,8-tetramethylchroman-6-yl acetate | 0.25 mmol, 187 mg | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(NCCCCCC)=O)C | C22H33NO4
reactant | NaOMe | 0.625 mmol, 33.7 mg | C[O-].[Na+]
reactant | HCl | 2.5 M, 1.5 mL | Cl | ClH
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 1.25 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | N-hexyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 90 mg | C(CCCCC)NC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C20H31NO3
